US09216980B2
Preparation of 4-(4-Bromobenzyl)-1-methylpiperidine
A mixture of 4-(4-bromobenzyl)-piperidine (290 mg, 1.14 mmol), formic acid (12 mL) and 37% aqueous formaldehyde (0.30 mL, 3.75 mmol) was divided into three portions. Each portion was heated at 150° C. for 5 minutes in a microwave reactor. The combined cold mixture was loaded onto a 5 g SCX-2 cartridge which was then washed with methanol (30 mL) then 2 N ammonia in methanol (50 mL). Concentration of the combined basic fractions in vacuo gave the title compound (300 mg, 98%) as a colourless oil. LCMS (Method B): RT=2.18 min, M+H+=268, 270.

reactant | 4-(4-bromobenzyl)-piperidine | 1.14 mmol, 290 mg | BrC1=CC=C(CC2CCNCC2)C=C1 | C12H16BrN
reactant | formaldehyde | 3.75 mmol, 0.30 mL | C=O | CH2O
solvent | formic acid | 12 mL | C(=O)O | CH2O2
product | 4-(4-Bromobenzyl)-1-methylpiperidine | 300 mg, 98% | BrC1=CC=C(CC2CCN(CC2)C)C=C1 | C13H18BrN
